US07452911B2
3.54a 2-chloro-N-(4-iodo-phenyl)-acetamide
2.0 mL (25.1 mmol) chloro-acetylchloride in 5 mL DCM are added to a solution of 5.00 g (22.83 mmol) 4-iodo-phenylamine and 7.0 mL (50.2 mmol) triethylamine in 100 mL DCM at 0° C. The ice bath is removed and the reaction is stirred for a further 1.5 h at RT. The reaction solution is diluted with 80 mL water and the organic phase is washed with saturated NaCl solution. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac. The residue is triturated with EtOAc, suction filtered and dried in the air.

reactant | chloro-acetylchloride | 25.1 mmol, 2.0 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-iodo-phenylamine | 22.83 mmol, 5.00 g | IC1=CC=C(C=C1)N | C6H6IN
reactant | triethylamine | 50.2 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(4-iodo-phenyl)-acetamide | ClCC(=O)NC1=CC=C(C=C1)I | C8H7ClINO
